### PR TITLE
[Merged by Bors] - feat(ModularForm): the Eisenstein series E2 is bounded at ImInfty

### PR DESCRIPTION
**Pull request by seewoo5**
---

Weight 2 Eisenstein series is bounded at $i\infty$, where the proof uses q-expansion of it. Separated out from #40764. Initial code is written by Claude, and further cleanup is done by myself and Claude.

Originated from sphere packing project. Note that the proof here is slightly different from the proof [there](https://github.com/thefundamentaltheor3m/Sphere-Packing-Lean/blob/139114cffabd11c10863133e57b056a29279eee2/SpherePacking/ModularForms/Eisenstein.lean#L443), where latter proof uses Lambert series of E2.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by MichaelStollBayreuth** [comment]
I'd like to have input from @loefflerd and/or @CBirkbeck on this.

My own first remark is that I think this can well go into `...E2.Summable` and does not need its own file.

Also, it would make sense to have a general statement saying that a function that has a q-expansion with (say) polynomially bounded coefficients and no terms with negative exponents is bounded at $i \infty$. (And then deduce the resut on $E_2$ from that.)

**Comment by MichaelStollBayreuth** [comment]
I'm trying to find out why the bot insists on lower-casing the title...

**Comment by loefflerd** [comment]
I agree with Michael on this – it should not be hard to adapt the argument to show that any function given by a q-expansion that converges everywhere on the upper half plane is necessarily bounded at ImInfty.

**Comment by CBirkbeck** [comment]
Yes I agree and we can put the general result somewhere in the q-expansions file I guess?

**Comment by loefflerd** [comment]
> Yes I agree and we can put the general result somewhere in the q-expansions file I guess?

Yes, that's a good idea. One of the main results currently in that file is "bounded-at-infinity => has q-expansion" and this is exactly the converse.

**Comment by seewoo5** [comment]
@MichaelStollBayreuth @loefflerd @CBirkbeck Thank you for the comments, I added generalization for q-expansion. Note that `hasSum_qExpansion_E2` is added only to make proof of `isBoundedAtImInfty_E2` shorter, where I can merge it back to there.

File: Mathlib/NumberTheory/ModularForms/QExpansion.lean [hunk 1]
```diff
@@ -258,6 +258,25 @@ private lemma hasFPowerSeriesOnBall_update {f : ℍ → ℂ} (hh : 0 < h) {c : 
...
+/-- A function on the upper half plane that is given everywhere by a convergent `q`-expansion with
+non-negative exponents, `f τ = ∑' m, c m * 𝕢 h τ ^ m`, is bounded at `i∞`. This is a converse to
+`hasSum_qExpansion`: there, boundedness is a hypothesis used to produce the `q`-expansion, while
+here convergence of the `q`-expansion is enough to deduce boundedness. -/
+theorem isBoundedAtImInfty_of_hasSum_qExpansion {f : ℍ → ℂ} {c : ℕ → ℂ} (hh : 0 < h)
+    (hf : ∀ τ : ℍ, HasSum (fun m ↦ c m • 𝕢 h τ ^ m) (f τ)) : IsBoundedAtImInfty f := by
+  have hfeq : f = fun τ : ℍ ↦ update (cuspFunction h f) 0 (c 0) (𝕢 h τ) := by
+    funext τ
+    have : (0 : ℝ) < 2 * π * τ.im / h := by positivity
+    have hqlt : ‖𝕢 h (τ : ℂ)‖ < 1 := by simpa [Periodic.qParam, Complex.norm_exp, neg_div]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/QExpansion.lean]: I think this would be a reasonable stand-alone lemma (this could perhaps replace `UpperHalfPlane.norm_qParam_lt_one`, which has `h` coerced from a `Nat`).

Also, `Complex` is open, so

```suggestion
    have hqlt : ‖𝕢 h (τ : ℂ)‖ < 1 := by simpa [Periodic.qParam, norm_exp, neg_div]
```

File: Mathlib/NumberTheory/ModularForms/QExpansion.lean [hunk 2]
```diff
@@ -258,6 +258,25 @@ private lemma hasFPowerSeriesOnBall_update {f : ℍ → ℂ} (hh : 0 < h) {c : 
...
+    rw [update_of_ne (Periodic.qParam_ne_zero _)]
+    exact (hf τ).unique (hasSum_cuspFunction_of_hasSum_punctured hh hf hqlt (Complex.exp_ne_zero _))
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/QExpansion.lean]:
```suggestion
    exact (hf τ).unique (hasSum_cuspFunction_of_hasSum_punctured hh hf hqlt (exp_ne_zero _))
```

File: Mathlib/NumberTheory/ModularForms/QExpansion.lean [hunk 3]
```diff
@@ -258,6 +258,25 @@ private lemma hasFPowerSeriesOnBall_update {f : ℍ → ℂ} (hh : 0 < h) {c : 
...
+  have hball := hasFPowerSeriesOnBall_update hh hf
+  have htend : Tendsto f atImInfty (𝓝 (c 0)) := by
+    rw [hfeq]
+    simpa [update_self, Function.comp_def] using
+      hball.hasFPowerSeriesAt.continuousAt.tendsto.comp (qParam_tendsto_atImInfty hh)
+  exact htend.isBigO_one ℝ
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/QExpansion.lean:277]: This looks a bit like defeq abuse. Should there be more API? (@loefflerd @CBirkbeck)

File: Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean [hunk 4]
```diff
@@ -103,6 +103,24 @@ lemma E2_eq_tsum_cexp : E2 z = 1 - 24 * ∑' n : ℕ+, σ 1 n * 𝕢 z ^ (n : 
...
+    HasSum (fun m : ℕ ↦ (if m = 0 then 1 else -24 * σ 1 m : ℂ) • 𝕢 z ^ m) (E2 z) := by
+  have hS : Summable fun n : ℕ ↦ σ 1 (n + 1) * 𝕢 z ^ (n + 1) :=
+    (summable_nat_add_iff 1).mpr (summable_sigma_mul_cexp_pow (k := 2) (one_le_two) z)
+  rw [← hasSum_nat_add_iff' 1]
+  simp only [Nat.add_eq_zero_iff, one_ne_zero, and_false, ↓reduceIte, smul_eq_mul, Finset.range_one,
+    ite_mul, one_mul, Finset.sum_singleton, pow_zero]
+  convert! (hS.mul_left (-24)).hasSum using 1
+  · ext n; ring
+  · rw [E2_eq_tsum_cexp, tsum_mul_left, ← tsum_pnat_eq_tsum_succ (f := fun n ↦ σ 1 n * 𝕢 z ^ n)]
+    ring
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ModularForms/EisensteinSeries/E2/Summable.lean]:
```suggestion
  convert! (hS.mul_left (-24)).hasSum using 1
  · ext : 1
    simp [mul_assoc]
  · rw [E2_eq_tsum_cexp, tsum_pnat_eq_tsum_succ (f := fun n ↦ σ 1 n * 𝕢 z ^ n), tsum_mul_left]
    simp
```
to get rid of the long list of `simp only` lemmas.

**Review by MichaelStollBayreuth — COMMENTED** [review]
This looks good to me now.
@loefflerd @CBirkbeck What do you think?

File: Mathlib/NumberTheory/ModularForms/QExpansion.lean (hunk 3 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/QExpansion.lean:277]: Is defeq _use_ considered synonymous with defeq _abuse_? IMHO we should go the other way, and make AtImInfty be a reducible def.

File: Mathlib/NumberTheory/ModularForms/QExpansion.lean (hunk 1 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/QExpansion.lean]: The slight issue with replacing `UpperHalfPlane.norm_qParam_lt_one` is that it takes a `NeZero` typeclass hypothesis, rather than a plain `0 < h`, in order that it can be filled in automatically in the most common case `h = 1`. So replacing it with this more general lemma would lose a little bit of convenience downstream.

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/ModularForms/QExpansion.lean]: So it would be better to add a version for positive real `h` instead of replacing the existing one.

File: Mathlib/NumberTheory/ModularForms/QExpansion.lean (hunk 3 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/ModularForms/QExpansion.lean:277]: I'm not sure about this either. But note that here the defeq goes in two steps:
`UpperHalfPlane.IsBoundedAtImInfty f = UpperHalfPlane.atImInfty.BoundedAtFilter f = f =O[UpperHalfPlane.atImInfty] 1`,
and my concern is that this makes the code hard to understand (and possibly harder to maintain).

File: Mathlib/NumberTheory/ModularForms/QExpansion.lean (hunk 1 above)
Comment (CBirkbeck) [reply Mathlib/NumberTheory/ModularForms/QExpansion.lean]: Yeah I think adding a version is the best thing here.

File: Mathlib/NumberTheory/ModularForms/QExpansion.lean (hunk 3 above)
Comment (seewoo5) [reply Mathlib/NumberTheory/ModularForms/QExpansion.lean:277]: What would be your suggestions - should I add more `rw` steps to make it more visible, or add new lemmas (it is not clear for me what lemmas to be added)

Comment (loefflerd) [reply Mathlib/NumberTheory/ModularForms/QExpansion.lean:277]: @MichaelStollBayreuth Can you elaborate a bit more on what you think is the "correct" approach here? 

Personally, I think the code is not too bad as it stands; the rest of the PR is (IMHO) ready to go, & there's a lot more material to be upstreamed from sphere-packing that depends on this, so I'd recommend merging it without further changes. But if Michael has a strong view about how it should be done better then I'm happy to defer to that.

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/ModularForms/QExpansion.lean:277]: I have no very strong feelings here. Maybe just ad a comment that the two-step defeq mentioned above is used here?
(Sorry for replying late; I'm at a conference this week...)

Comment (seewoo5) [reply Mathlib/NumberTheory/ModularForms/QExpansion.lean:277]: I just added a comment!

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors merge
